2146-02-10 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Cr 2.0 -> 0.9 F/u urine lytes - FENa 1.02%
   - Lactate 3.5 -> 0.8
   - On levophed
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   Nausea/Vomiting
   Iodine; Iodine Containing
   Hives; Nausea/V
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2146-2-10**] 12:10 AM
   Daptomycin - [**2146-2-10**] 01:10 AM
   Metronidazole - [**2146-2-10**] 06:09 AM
   Infusions:
   Norepinephrine - 0.16 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-10**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.5
C (97.7
   HR: 74 (68 - 90) bpm
   BP: 82/46(54) {69/37(44) - 86/52(72)} mmHg
   RR: 15 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,823 mL
                                                                  1,872 mL
   PO:
             TF:
   IVF:
                                                                  1,823 mL
                                                                  1,872 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                  1,100 mL
   Urine:
                                                                    450 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,373 mL
                                                                    772 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.25/36/142/15/-10
   Physical Examination
   GEN: Thin, lying in bed in no distress.
   HEENT: No icterus or pallor. JVP difficult to assess.
   CV: Regular. No murmurs.
   PULM: Clear.
   ABD: Scaphoid. Ostomy bad in place. [**6-3**] TTP.
   EXT: Warm. No edema.
   NEURO: Pupils 4mm->2mm and equal. CNII-XII intact. Sensation intact in
   all four extremeties to gross touch. BLUE 4+/5 in proximal and distal
   muscles; LLE 4+/5; RLE 4-/5
   Labs / Radiology
   232 K/uL
   10.2 g/dL
   152 mg/dL
   0.9 mg/dL
   15 mEq/L
   3.6 mEq/L
   20 mg/dL
   117 mEq/L
   141 mEq/L
   29.2 %
   17.6 K/uL
        [image002.jpg]
                             [**2146-2-10**]  12:28 AM
                             [**2146-2-10**]  03:26 AM
   WBC
   17.6
   Hct
   29.2
   Plt
   232
   Cr
   0.9
   TCO2
   17
   Glucose
   152
   Other labs: PT / PTT / INR:14.4/30.7/1.3, ALT / AST:63/35, Alk Phos / T
   Bili:255/0.4, Differential-Neuts:86.6 %, Lymph:10.5 %, Mono:2.6 %,
   Eos:0.1 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL, LDH:167 IU/L,
   Ca++:7.1 mg/dL, Mg++:1.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   47F with Gardners Syndrome and tunneled line, presented with likely
   line infection.
   1. GNR sepsis.  Most likely related to a line infection. Previously has
   had klebsiella bacteremia felt to be line related.  Has been on
   linezolid since her most recent discharge and thus far has not grown
   GPCs.  Initial lactate of 3.5, down to 0.8 with 4+ liters of IVF.
   - Volume resuscitation with improvement in SBP
   - Levophed with SBP goal of >80 to maintain perfusion
   - Continue GNR coverage with cefepime
   - D/c Flagyl
   - Add meropenem for double coverage GNR while awaiting speciation and
   to facilitate clearing maximum microbes from infected line
   - Continue GPC coverage with dapto until full report from [**Location (un) 1946**]
   re: speciation
   - Follow-up OSH micro
   - Will try to clear as much from line as possible with goal of changing
   IV access over wire by IR tomorrow
   - Hold TPN as line is infected
   2. Acute renal failure.  Resolving. Likely related to prerenal volume
   depletion.  FENA 1% and Cr trended down to 0.9.
   - Trend Cr
   3. Metabolic acidosis.  Has combination of elevated lactate and ARF
   though also non-gap component to this as well (possibly from ostomy
   output though does not report increase in this; now partly from IVF).
   - Trend ABG/HCO3
   - Add sodium bicarb today in short term
   4. Transaminitis. [**Month (only) 60**] be from hypoperfusion.  Less likely an infectious
   process. Trending down.
   - Trend LFTs until normalized
   5. Hyperglycemia. >200. Has had multiple elevated values over time.
   - F/u A1c
   - HISS while septic
   6. Anemia. At baseline.
   - Trend HCT
   7. Right femoral vein thrombosis
   - Continue Plavix
   8. Fibromyalgia causing generalized fatigue
   - Fentanyl patch for sustained relief
   - Fentanyl IV prn for breakthrough
   FEN: IVF boluses; regular diet for pleasure
   PPX: HSC; no need for PPI
   Presumed Full Code, but has mentioned to RN that she is DNR/DNI
 will
   clarify
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2146-2-9**] 08:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-10 09:37:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2146-2-9**] 08:23 PM
   Patient with continued antibiotics
   Maintained SBP at 83
   Some improvement in creatinine with IVF hydration
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   Nausea/Vomiting
   Iodine; Iodine Containing
   Hives; Nausea/V
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2146-2-10**] 12:10 AM
   Daptomycin - [**2146-2-10**] 01:10 AM
   Metronidazole - [**2146-2-10**] 06:09 AM
   Infusions:
   Norepinephrine - 0.16 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2146-2-10**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2146-2-10**] 09:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 81 (68 - 90) bpm
   BP: 88/47(56) {69/37(44) - 88/52(72)} mmHg
   RR: 17 (13 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,823 mL
                                                                  2,107 mL
   PO:
             TF:
   IVF:
                                                                  1,823 mL
                                                                  2,107 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                  1,550 mL
   Urine:
                                                                    450 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,373 mL
                                                                    557 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.25/36/142/15/-10
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Catheter site without significant erythema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   232 K/uL
   152 mg/dL
   0.9 mg/dL
   15 mEq/L
   3.6 mEq/L
   20 mg/dL
   117 mEq/L
   141 mEq/L
   29.2 %
   17.6 K/uL
        [image002.jpg]
                             [**2146-2-10**]  12:28 AM
                             [**2146-2-10**]  03:26 AM
   WBC
   17.6
   Hct
   29.2
   Plt
   232
   Cr
   0.9
   TCO2
   17
   Glucose
   152
   Other labs: PT / PTT / INR:14.4/30.7/1.3, ALT / AST:63/35, Alk Phos / T
   Bili:255/0.4, Differential-Neuts:86.6 %, Lymph:10.5 %, Mono:2.6 %,
   Eos:0.1 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL, LDH:167 IU/L,
   Ca++:7.1 mg/dL, Mg++:1.4 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: AG=9
   Microbiology: Blood Cultures--GNR's without speciation from [**2-8**] and
   [**2-9**]
   Assessment and Plan
   47 yo female with history of line related sepsis now presenting with
   findings of hip pain and rigors which have characterized previous
   admissions.  Patient with GNR's seen in OSH blood cultures now seen on
   results.  In this setting patient has had continued levophed support
   for blood pressure despite early antibiotics.   In the setting of
   chronic indwelling catheter and new GNR bacteremia certainly would
   expand antibiotics to include
double coverage
 for GNR
 Sepsis
   -Flagyl/Cefepime/Dapto
were started last night with concern for
   resistant GP organisms but that is not seen.
   -Will have to perform broadened antibiotics
   -Levophed
will decrease as possible
   -Will continue with Dapotmycin for now given lactic acidosis at
   admission
   -Will continue with Meropenem for extensive coverage of GNR
   -Will D/C Flagyl at this time
   -Will pursue repeat blood culture and follow for fungal results
   possible
   -Hope for line change after reasonable antibiotic course but will have
   to balance with concern for limited access outside of current line.
   -LR to continue for IVF and could utilize HCO3- for non-gap component
   of acidosis.
   Acute Renal Failure-
   -Likely pre-renal
   -Improved with IVF at this time and effective maintenance of perfusion
   pressure
   -Follow Cr
   [**Location (un) **]
   -TPN Remains Goal for support
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2146-2-9**] 08:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2146-02-11 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypotension, GNR bacteremia
   24 Hour Events:
 BLOOD CULTURED - At [**2146-2-10**] 03:13 PM
 BLOOD CULTURED - At [**2146-2-10**] 05:59 PM
   - DNR/DNI, confirmed with patient
   - OSH BCx: 7/8 bottles Klebsiella; blood cultures from [**2-9**] here
   positive for GNRs
   - ID recs: Change line tomorrow, CT abd to r/o other source, repeat TEE
   as prior ECHO from [**11-1**] (also Klebsiella) concerning for ?SVC abscess,
   stool for C. diff.  Stop dapto & cont meropenem only (done).
   - Levophed weaned during day then increased early this morning:
                     0.16->0.14->0.13 -> 0.18
   - CT (PO contrast only; pt refused PIV): read pending
   - had severe HA, improved after tylenol
   - hct slowly dropped; DIC & hemolysis labs neg
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   Nausea/Vomiting
   Iodine; Iodine Containing
   Hives; Nausea/V
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2146-2-10**] 12:10 AM
   Daptomycin - [**2146-2-10**] 01:10 AM
   Metronidazole - [**2146-2-10**] 06:09 AM
   Meropenem - [**2146-2-11**] 06:00 AM
   Infusions:
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2146-2-10**] 07:58 AM
   Heparin Sodium (Prophylaxis) - [**2146-2-10**] 11:00 PM
   Fentanyl - [**2146-2-10**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-11**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 48 (48 - 84) bpm
   BP: 90/45(55) {66/33(40) - 104/75(111)} mmHg
   RR: 13 (10 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  5,303 mL
                                                                    928 mL
   PO:
                                                                    950 mL
             TF:
   IVF:
                                                                  4,353 mL
                                                                    928 mL
   Blood products:
   Total out:
                                                                  3,350 mL
                                                                      0 mL
   Urine:
                                                                  1,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,953 mL
                                                                    928 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   GEN: Thin, lying in bed in no distress.
   HEENT: No icterus or pallor. JVP difficult to assess.
   CV: Regular. No murmurs.
   PULM: Clear.
   ABD: Scaphoid. Ostomy bad in place.  Surgical scars.  TTP, especially
   LLQ, at baseline, no rebound or guarding
   EXT: Warm. No edema.
   Labs / Radiology
   209 K/uL
   8.6 g/dL
   166 mg/dL
   0.6 mg/dL
   31 mEq/L
   2.6 mEq/L
   6 mg/dL
   107 mEq/L
   142 mEq/L
   24.3 %
   8.4 K/uL
        [image002.jpg]
                             [**2146-2-10**]  12:28 AM
                             [**2146-2-10**]  03:26 AM
                             [**2146-2-10**]  02:43 PM
                             [**2146-2-10**]  09:50 PM
                             [**2146-2-10**]  10:52 PM
                             [**2146-2-11**]  03:37 AM
   WBC
   17.6
   10.5
   8.4
   Hct
   29.2
   26.2
   23.9
   24.3
   Plt
   232
   191
   209
   209
   Cr
   0.9
   0.7
   0.6
   TCO2
   17
   Glucose
   152
   177
   166
   Other labs: PT / PTT / INR:13.1/32.7/1.1, ALT / AST:63/35, Alk Phos / T
   Bili:255/0.3, Differential-Neuts:86.6 %, Lymph:10.5 %, Mono:2.6 %,
   Eos:0.1 %, Fibrinogen:354 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.8
   g/dL, LDH:167 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   47F with Gardners Syndrome and tunneled line, presented with likely
   line infection.
   1. GNR sepsis, hypotension.  Most likely related to a line infection
   with Klebsiella. Previously has had klebsiella bacteremia felt to be
   line related.  Has been on linezolid since her most recent discharge
   and thus far has not grown GPCs.  Initial lactate of 3.5, down to 0.8
   with 4+ liters of IVF.  Continues to require levophed for blood
   pressure support.  No evidence for abscess or other source of infection
   on CT scan.
   - Levophed with SBP goal of >80 to maintain perfusion (patient has low
   BP at baseline); anticipate that levophed requirements will diminish
   within 12-24 hours of having line changed out.
   - Continue GNR coverage with meropenem (D1 = [**2-10**]; cefepime & flagyl
   stopped)
   - Daptomycin stopped as no evidence of GPCs and patient has finished
   course for prior coag neg Staph bacteremia
   - f/u cultures & sensitivies from [**Location (un) 1946**]
   - Plan to change line over wire in OR today
   2. Acute renal failure.  Resolved. Likely related to prerenal volume
   depletion.  FENA 1% and Cr trended down to 0.9.
   - Trend Cr
   .
   3. Transaminitis.  Resolved.  Likely from hypoperfusion. Trending down.
   - Trend LFTs until normalized
   4. Hyperglycemia. Improving.  Likely related to infection.
   - HISS while septic
   5. Anemia. Now below baseline.  Drop may be, in part, related to IVF
   resuscitation.  No evidence for DIC or hemolysis on labs checked
   overnight.
   - Trend HCT, [**Hospital1 **] check or more frequent
   6. Right femoral vein thrombosis
   - Continue Plavix
   .
   7. Hypokalemia
 Patient has required aggressive potassium repletion
   for hypokalemia over the last 24 hours.
   - [**Hospital1 **]
 QID lyte checks with potassium repletion, predominantly IV as
   patient not tolerating or absorbing much PO.
   .
   8. Metabolic acidosis.  On admission had combination of elevated
   lactate and ARF though also non-gap component to this as well (possibly
   from ostomy output though does not report increase in this; now partly
   from IVF).  Received NaHCO3 on [**2-10**] and HCO3 is now improved & closer
   to her normal range.
   - Trend HCO3
   .
   9. Fibromyalgia causing generalized fatigue
   - Fentanyl patch for sustained relief
   - Fentanyl IV prn for breakthrough
   FEN: IVF boluses; regular diet for pleasure; Nutrition consult to
   restart TPN after new line is placed
   PPX: HSC; no need for PPI
   CODE: DNR/DNI, but will intubate for some procedures
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2146-2-9**] 08:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-11 11:01:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2146-2-10**] 03:13 PM
 BLOOD CULTURED - At [**2146-2-10**] 05:59 PM
   BC with growth consistent with klebsiella
   Patient to OR for line change this morning--intubated electively for
   procedure
   Levophed wean to 0.13
   CT scan repeated--final [**Location (un) 308**] pending
   History obtained from Medical records
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   Nausea/Vomiting
   Iodine; Iodine Containing
   Hives; Nausea/V
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2146-2-10**] 12:10 AM
   Daptomycin - [**2146-2-10**] 01:10 AM
   Metronidazole - [**2146-2-10**] 06:09 AM
   Meropenem - [**2146-2-11**] 06:00 AM
   Infusions:
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-2-10**] 11:00 PM
   Fentanyl - [**2146-2-10**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-11**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (97
   HR: 64 (48 - 84) bpm
   BP: 97/57(67) {66/33(40) - 104/75(111)} mmHg
   RR: 16 (10 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,303 mL
                                                                  1,222 mL
   PO:
                                                                    950 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  4,353 mL
                                                                  1,172 mL
   Blood products:
   Total out:
                                                                  3,350 mL
                                                                    425 mL
   Urine:
                                                                  1,900 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,953 mL
                                                                    797 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   209 K/uL
   166 mg/dL
   0.6 mg/dL
   31 mEq/L
   5.1 mEq/L
   6 mg/dL
   107 mEq/L
   142 mEq/L
   24.3 %
   8.4 K/uL
        [image002.jpg]
                             [**2146-2-10**]  12:28 AM
                             [**2146-2-10**]  03:26 AM
                             [**2146-2-10**]  02:43 PM
                             [**2146-2-10**]  09:50 PM
                             [**2146-2-10**]  10:52 PM
                             [**2146-2-11**]  03:37 AM
   WBC
   17.6
   10.5
   8.4
   Hct
   29.2
   26.2
   23.9
   24.3
   Plt
   232
   191
   209
   209
   Cr
   0.9
   0.7
   0.6
   TCO2
   17
   Glucose
   152
   177
   166
   Other labs: PT / PTT / INR:13.1/32.7/1.1, ALT / AST:63/35, Alk Phos / T
   Bili:255/0.3, Differential-Neuts:86.6 %, Lymph:10.5 %, Mono:2.6 %,
   Eos:0.1 %, Fibrinogen:354 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.8
   g/dL, LDH:167 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:1.4 mg/dL
   Fluid analysis / Other labs: AG-4
   Imaging: CT Abd-Bilateral pleural effusions, mild peri-pancreatic fluid
   Assessment and Plan
   47 yo female with short gut syndrome and chronically on TPN now
   admitted with recurrent sepsis--likely related to indwelling catheter
   and with GNR's found current plan of ABX and line change dominates
   current planning.
   1)Sepsis--Catheter related blood stream infection from indwelling
   catheter.
   -Line Change today
   -Wean Levophed as possible today with fluid bolus as
   needed--0.18--expect to wean as possible with Bactermia cleaered
   -Continue ABX--Meropenem
   -Patient intubated prior to TEE this morning
   2)Bacteremia-Much discussion across cardiology and ID on pace and
   nature of imaging studies--
   -Will pursue line change today
   -Will provide broad spectrum ABX
   -Will have to follow up on CT scan read and consider further
   diagnositic testing as pleural effusions are bilateral and less likely
   to represent infectious focus.
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
   -Replaced
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition: TPN to restart
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2146-2-9**] 08:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2146-02-12 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2146-2-12**] 05:14 AM
   - Got L fem line exchanged by IR
   - Echo: No valvular vegetations or significant valve disease seen.
   - Klebsiella [**Last Name (un) 968**] from OSH: Resistant to Ampicillin; Sensitive to
   Cefazolin, Gent, Levo, Zosyn, and Bactrim. (Consider switching from
   meropenem to zosyn)
   - Using fentanyl 25 mcg Q 2hrs for pain
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   Nausea/Vomiting
   Iodine; Iodine Containing
   Hives; Nausea/V
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2146-2-10**] 12:10 AM
   Daptomycin - [**2146-2-10**] 01:10 AM
   Metronidazole - [**2146-2-10**] 06:09 AM
   Meropenem - [**2146-2-12**] 06:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-2-11**] 11:00 PM
   Fentanyl - [**2146-2-12**] 06:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-12**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 75 (60 - 90) bpm
   BP: 87/47(57) {51/33(33) - 129/104(110)} mmHg
   RR: 18 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,378 mL
                                                                  1,022 mL
   PO:
                                                                    170 mL
             TF:
   IVF:
                                                                  1,896 mL
                                                                    588 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                  1,400 mL
   Urine:
                                                                  1,675 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    703 mL
                                                                   -378 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///34/
   Physical Examination
   GEN: Thin, lying in bed in no distress.
   HEENT: No icterus or pallor. JVP difficult to assess.
   CV: Regular. No murmurs.
   PULM: Clear.
   ABD: Scaphoid. Ostomy bad in place.  Surgical scars.  TTP, especially
   LLQ, at baseline, no rebound or guarding
   EXT: Warm. No edema.
   Labs / Radiology
   200 K/uL
   8.2 g/dL
   256 mg/dL
   0.4 mg/dL
   34 mEq/L
   4.0 mEq/L
   7 mg/dL
   104 mEq/L
   140 mEq/L
   23.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2146-2-10**]  12:28 AM
                             [**2146-2-10**]  03:26 AM
                             [**2146-2-10**]  02:43 PM
                             [**2146-2-10**]  09:50 PM
                             [**2146-2-10**]  10:52 PM
                             [**2146-2-11**]  03:37 AM
                             [**2146-2-11**]  05:26 PM
                             [**2146-2-12**]  05:23 AM
   WBC
   17.6
   10.5
   8.4
   6.2
   5.1
   Hct
   29.2
   26.2
   23.9
   24.3
   24.6
   23.0
   Plt
   232
   191
   209
   [**Telephone/Fax (3) 8511**]
   Cr
   0.9
   0.7
   0.6
   0.4
   0.4
   TCO2
   17
   Glucose
   152
   177
   166
   115
   256
   Other labs: PT / PTT / INR:12.8/31.9/1.1, CK / CKMB / Troponin-T:20//,
   ALT / AST:35/19, Alk Phos / T Bili:255/0.3, Amylase / Lipase:73/13,
   Differential-Neuts:86.6 %, Lymph:10.5 %, Mono:2.6 %, Eos:0.1 %,
   Fibrinogen:354 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:167
   IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   47F with Gardners Syndrome and tunneled line, presented with likely
   line infection.
   .
   1. GNR sepsis, hypotension.  Most likely related to a line infection
   with Klebsiella. Previously has had klebsiella bacteremia felt to be
   line related, now has pos bld cx from OSH.  Initial lactate of 3.5,
   down to 0.8 with 4+ liters of IVF.  Continues to require levophed for
   blood pressure support, but weaning down.  No evidence for abscess or
   other source of infection on CT scan.  TTE on [**2-11**] neg for vegetations,
   so less likely endocarditis. Daptomycin stopped as no evidence of GPCs.
   Femoral access line changed over wire on [**2-11**].
   - Levophed with SBP goal of >80 to maintain perfusion (patient has low
   BP at baseline); anticipate that levophed requirements will diminish
   within 12-24 hours of having line changed out.
   - Continue GNR coverage with meropenem day 3 (D1 = [**2-10**]; cefepime &
   flagyl stopped)
   - Sensitivies from [**Location (un) 1946**]: Resistant to Ampicillin; Sensitive to
   Cefazolin, Gent, Levo, Zosyn, and Bactrim.
   2. Acute renal failure.  Resolved. Likely related to prerenal volume
   depletion.  FENA 1% and Cr trended down to 0.4.
   .
   3. Transaminitis.  Resolved.  Likely from hypoperfusion.
   .
   4. Hyperglycemia. Improving.  Likely related to infection.
   - HISS while septic
   .
   5. Anemia. Now below baseline, but stable.  Drop may be, in part,
   related to IVF resuscitation.  No evidence for DIC or hemolysis on labs
   checked overnight.
   - Trend HCT
   .
   6. Right femoral vein thrombosis
   - Continue Plavix
   .
   7. Hypokalemia
 Patient has required aggressive potassium repletion
   for hypokalemia
   - [**Hospital1 **]
 [**Hospital1 **] lyte checks with potassium repletion, predominantly IV as
   patient not tolerating or absorbing much PO.
   .
   8. Metabolic acidosis.  Resolved. On admission had combination of
   elevated lactate and ARF though also non-gap component to this as well
   (possibly from ostomy output though does not report increase in this;
   now partly from IVF).  Received NaHCO3 on [**2-10**] and HCO3 is now improved
   & closer to her normal range.
   - Trend HCO3
   .
   9. Fibromyalgia causing generalized fatigue
   - Fentanyl patch for sustained relief
   - Fentanyl IV prn for breakthrough
   FEN: IVF boluses; regular diet for pleasure; TPN started 3/21 per
   nutrition consult
   PPX: HSC; no need for PPI
   CODE: DNR/DNI, but will intubate for some procedures
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-2-11**] 07:00 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2146-2-9**] 08:23 PM
   22 Gauge - [**2146-2-11**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-12 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Got L fem line exchanged by IR
   - Echo: No valvular vegetations or significant valve disease seen.
   - Klebsiella [**Last Name (un) 968**] from OSH: Resistant to Ampicillin; Sensitive to
   Cefazolin, Gent, Levo, Zosyn, and Bactrim. (Consider switching from
   meropenem to zosyn)
   - Using fentanyl 25 mcg Q 2hrs for pain
 URINE CULTURE - At [**2146-2-12**] 05:14 AM
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   Nausea/Vomiting
   Iodine; Iodine Containing
   Hives; Nausea/V
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2146-2-10**] 12:10 AM
   Daptomycin - [**2146-2-10**] 01:10 AM
   Metronidazole - [**2146-2-10**] 06:09 AM
   Meropenem - [**2146-2-12**] 06:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-2-11**] 11:00 PM
   Fentanyl - [**2146-2-12**] 06:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-12**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 75 (60 - 90) bpm
   BP: 87/47(57) {51/33(33) - 129/104(110)} mmHg
   RR: 18 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,378 mL
                                                                  1,030 mL
   PO:
                                                                    170 mL
             TF:
   IVF:
                                                                  1,896 mL
                                                                    590 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                  1,400 mL
   Urine:
                                                                  1,675 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    703 mL
                                                                   -370 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///34/
   Physical Examination
   GEN: Thin, lying in bed in no distress.
   HEENT: No icterus or pallor. JVP difficult to assess.
   CV: Regular. No murmurs.
   PULM: Clear.
   ABD: Scaphoid. Ostomy bad in place.  Surgical scars.  TTP, especially
   LLQ, at baseline, no rebound or guarding
   EXT: Warm. No edema.
   Labs / Radiology
   200 K/uL
   8.2 g/dL
   256 mg/dL
   0.4 mg/dL
   34 mEq/L
   4.0 mEq/L
   7 mg/dL
   104 mEq/L
   140 mEq/L
   23.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2146-2-10**]  12:28 AM
                             [**2146-2-10**]  03:26 AM
                             [**2146-2-10**]  02:43 PM
                             [**2146-2-10**]  09:50 PM
                             [**2146-2-10**]  10:52 PM
                             [**2146-2-11**]  03:37 AM
                             [**2146-2-11**]  05:26 PM
                             [**2146-2-12**]  05:23 AM
   WBC
   17.6
   10.5
   8.4
   6.2
   5.1
   Hct
   29.2
   26.2
   23.9
   24.3
   24.6
   23.0
   Plt
   232
   191
   209
   [**Telephone/Fax (3) 8511**]
   Cr
   0.9
   0.7
   0.6
   0.4
   0.4
   TCO2
   17
   Glucose
   152
   177
   166
   115
   256
   Other labs: PT / PTT / INR:12.8/31.9/1.1, CK / CKMB / Troponin-T:20//,
   ALT / AST:35/19, Alk Phos / T Bili:255/0.3, Amylase / Lipase:73/13,
   Differential-Neuts:86.6 %, Lymph:10.5 %, Mono:2.6 %, Eos:0.1 %,
   Fibrinogen:354 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:167
   IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   47F with Gardners Syndrome and tunneled line, presented with likely
   line infection.
   1. GNR sepsis, hypotension.  Most likely related to a line infection
   with Klebsiella. Previously has had klebsiella bacteremia felt to be
   line related.  Has been on linezolid since her most recent discharge
   and thus far has not grown GPCs.  Initial lactate of 3.5, down to 0.8
   with 4+ liters of IVF.  Continues to require levophed for blood
   pressure support.  No evidence for abscess or other source of infection
   on CT scan.
   - Levophed with SBP goal of >80 to maintain perfusion (patient has low
   BP at baseline); anticipate that levophed requirements will diminish
   within 12-24 hours of having line changed out.
   - Continue GNR coverage with meropenem (D1 = [**2-10**]; cefepime & flagyl
   stopped)
   - Daptomycin stopped as no evidence of GPCs and patient has finished
   course for prior coag neg Staph bacteremia
   - f/u cultures & sensitivies from [**Location (un) 1946**]
   - Plan to change line over wire in OR today
   2. Acute renal failure.  Resolved. Likely related to prerenal volume
   depletion.  FENA 1% and Cr trended down to 0.9.
   - Trend Cr
   .
   3. Transaminitis.  Resolved.  Likely from hypoperfusion. Trending down.
   - Trend LFTs until normalized
   4. Hyperglycemia. Improving.  Likely related to infection.
   - HISS while septic
   5. Anemia. Now below baseline.  Drop may be, in part, related to IVF
   resuscitation.  No evidence for DIC or hemolysis on labs checked
   overnight.
   - Trend HCT, [**Hospital1 **] check or more frequent
   6. Right femoral vein thrombosis
   - Continue Plavix
   .
   7. Hypokalemia
 Patient has required aggressive potassium repletion
   for hypokalemia over the last 24 hours.
   - [**Hospital1 **]
 QID lyte checks with potassium repletion, predominantly IV as
   patient not tolerating or absorbing much PO.
   .
   8. Metabolic acidosis.  On admission had combination of elevated
   lactate and ARF though also non-gap component to this as well (possibly
   from ostomy output though does not report increase in this; now partly
   from IVF).  Received NaHCO3 on [**2-10**] and HCO3 is now improved & closer
   to her normal range.
   - Trend HCO3
   .
   9. Fibromyalgia causing generalized fatigue
   - Fentanyl patch for sustained relief
   - Fentanyl IV prn for breakthrough
   FEN: IVF boluses; regular diet for pleasure; Nutrition consult to
   restart TPN after new line is placed
   PPX: HSC; no need for PPI
   CODE: DNR/DNI, but will intubate for some procedures
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-2-11**] 07:00 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2146-2-9**] 08:23 PM
   22 Gauge - [**2146-2-11**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-12 11:13:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -URINE CULTURE - At [**2146-2-12**] 05:14 AM
   _Fem line exchanged in IR
   -TTE with no valvular disease noted on TTE only
   -Levophed weaned to 0.04 today!
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   Nausea/Vomiting
   Iodine; Iodine Containing
   Hives; Nausea/V
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2146-2-10**] 12:10 AM
   Daptomycin - [**2146-2-10**] 01:10 AM
   Metronidazole - [**2146-2-10**] 06:09 AM
   Meropenem - [**2146-2-12**] 06:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-2-12**] 08:42 AM
   Fentanyl - [**2146-2-12**] 10:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-12**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 93 (60 - 93) bpm
   BP: 88/48(57) {51/33(33) - 129/104(110)} mmHg
   RR: 21 (11 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,378 mL
                                                                  1,414 mL
   PO:
                                                                    170 mL
                                                                     80 mL
   TF:
   IVF:
                                                                  1,896 mL
                                                                    648 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                  1,650 mL
   Urine:
                                                                  1,675 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    703 mL
                                                                   -236 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///34/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   200 K/uL
   256 mg/dL
   0.4 mg/dL
   34 mEq/L
   4.0 mEq/L
   7 mg/dL
   104 mEq/L
   140 mEq/L
   23.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2146-2-10**]  12:28 AM
                             [**2146-2-10**]  03:26 AM
                             [**2146-2-10**]  02:43 PM
                             [**2146-2-10**]  09:50 PM
                             [**2146-2-10**]  10:52 PM
                             [**2146-2-11**]  03:37 AM
                             [**2146-2-11**]  05:26 PM
                             [**2146-2-12**]  05:23 AM
   WBC
   17.6
   10.5
   8.4
   6.2
   5.1
   Hct
   29.2
   26.2
   23.9
   24.3
   24.6
   23.0
   Plt
   232
   191
   209
   [**Telephone/Fax (3) 8511**]
   Cr
   0.9
   0.7
   0.6
   0.4
   0.4
   TCO2
   17
   Glucose
   152
   177
   166
   115
   256
   Other labs: PT / PTT / INR:12.8/31.9/1.1, CK / CKMB / Troponin-T:20//,
   ALT / AST:35/19, Alk Phos / T Bili:255/0.3, Amylase / Lipase:73/13,
   Differential-Neuts:86.6 %, Lymph:10.5 %, Mono:2.6 %, Eos:0.1 %,
   Fibrinogen:354 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:167
   IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:6.0 mg/dL
   Microbiology: Klebs--Resistant to Amp and sensitive to the rest.
   Assessment and Plan
   47 yo female with chronic TPN and short gut syndrome now with recurrent
   sepsis in the setting of GNR bacteremia.
   1_Sepsis-Good response to current Meropenem dosing.  Has had improved
   WBC count.  Has had decrease in Levophed requirement and has maintained
   improved renal function in the setting of sepsis treatment.
   -Continue study drug
   -Meropenem
   -Will look to refine antibiotic coverage in consultation with ID team
   -TTE performed and will have to consider with ID team and further
   imaging needed and this will largely be driven by clinical course.
   2)Acute Renal Failure-
   -Improved creatinine following Rx for sepsis.
   -Continue with I/O even
   3)Hyperglycemia-
   -Sliding scale insulin
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-2-11**] 07:00 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2146-2-9**] 08:23 PM
   22 Gauge - [**2146-2-11**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes

2146-02-13 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Weaned off pressors
   - ID recs: contrast CT of chest for eval of poss SVC vegetation; rads
   does not feel the study will be informative
   - Start diphenhydramine and ranitidine in AM for possible CT scan of
   chest w/ IV contrast (dye causes rash)
   - TPN started per nutrition recs
   - meropenem changed to ceftriaxone
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   Nausea/Vomiting
   Iodine; Iodine Containing
   Hives; Nausea/V
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2146-2-12**] 11:55 AM
   Ceftriaxone - [**2146-2-12**] 06:12 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-2-12**] 09:58 PM
   Fentanyl - [**2146-2-13**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-13**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 77 (70 - 93) bpm
   BP: 86/47(58) {75/41(50) - 111/68(73)} mmHg
   RR: 15 (12 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,786 mL
                                                                    667 mL
   PO:
                                                                    160 mL
             TF:
   IVF:
                                                                    944 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                  1,800 mL
   Urine:
                                                                  1,050 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -64 mL
                                                                 -1,133 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///36/
   Physical Examination
   GEN: Thin, lying in bed in no distress.
   HEENT: No icterus or pallor. JVP difficult to assess.
   CV: Regular. No murmurs.
   PULM: Clear.
   ABD: Scaphoid. Ostomy bad in place.  Surgical scars.  TTP, especially
   LLQ, at baseline, no rebound or guarding
   EXT: Warm. No edema.  Tender medial to the line change site, not
   laterally.
   Labs / Radiology
   210 K/uL
   8.4 g/dL
   124 mg/dL
   0.4 mg/dL
   36 mEq/L
   3.2 mEq/L
   13 mg/dL
   102 mEq/L
   139 mEq/L
   25.0 %
   4.1 K/uL
        [image002.jpg]
                             [**2146-2-10**]  12:28 AM
                             [**2146-2-10**]  03:26 AM
                             [**2146-2-10**]  02:43 PM
                             [**2146-2-10**]  09:50 PM
                             [**2146-2-10**]  10:52 PM
                             [**2146-2-11**]  03:37 AM
                             [**2146-2-11**]  05:26 PM
                             [**2146-2-12**]  05:23 AM
                             [**2146-2-13**]  04:51 AM
   WBC
   17.6
   10.5
   8.4
   6.2
   5.1
   4.1
   Hct
   29.2
   26.2
   23.9
   24.3
   24.6
   23.0
   25.0
   Plt
   232
   191
   209
   [**Telephone/Fax (3) 8511**]
   210
   Cr
   0.9
   0.7
   0.6
   0.4
   0.4
   0.4
   TCO2
   17
   Glucose
   152
   177
   166
   115
   256
   124
   Other labs: PT / PTT / INR:12.8/39.7/1.1, Ca++:8.3 mg/dL, Mg++:1.8
   mg/dL, PO4:2.2 mg/dL
   Blood culture from [**2-9**] pan [**Last Name (un) **] Klebsiella, no growth to date from
   [**2-10**] on; tip no sig. growth
   Assessment and Plan
   47F with Gardners Syndrome and tunneled line, presented with likely
   line infection.
   .
   1. GNR sepsis, hypotension.  Most likely related to a line infection
   with Klebsiella. Previously has had klebsiella bacteremia felt to be
   line related, now has pos bld cx from OSH.  Initial lactate of 3.5,
   down to 0.8 with 4+ liters of IVF.  Continues to require levophed for
   blood pressure support, but weaning down.  No evidence for abscess or
   other source of infection on CT scan.  TTE on [**2-11**] neg for vegetations,
   so less likely endocarditis. Daptomycin stopped as no evidence of GPCs.
   Femoral access line changed over wire on [**2-11**].
   - Levophed weaned off and at baseline SBPs in the 80s.
   - Continue GNR coverage, meropenem (D1 = [**2-10**]; cefepime & flagyl
   stopped) changed to ceftriaxone on [**2-12**].  To complete 14 day course
   from [**2-11**] (date of line change) per ID recs
   - Sensitivies from [**Location (un) 1946**]: Resistant to Ampicillin; Sensitive to
   Cefazolin, Gent, Levo, Zosyn, and Bactrim.
   - ?SVC lesion, unclear, rads does not think that CT chest will be high
   yield, will discuss further with ID.
   2. Acute renal failure.  Resolved. Likely related to prerenal volume
   depletion.  FENA 1% and Cr trended down to 0.4.
   .
   3. Transaminitis.  Resolved.  Likely from hypoperfusion.
   .
   4. Hyperglycemia. Improving.  Likely related to infection.
   - HISS while septic
   .
   5. Anemia. Now below baseline, but stable.  Drop may be, in part,
   related to IVF resuscitation.  No evidence for DIC or hemolysis on labs
   checked overnight.
   - Trend HCT
   .
   6. Right femoral vein thrombosis
   - Continue Plavix
   .
   7. Hypokalemia
 Patient has required aggressive potassium repletion
   for hypokalemia
   - [**Hospital1 **]
 [**Hospital1 **] lyte checks with potassium repletion, predominantly IV as
   patient not tolerating or absorbing much PO.
   .
   8. Metabolic acidosis.  Resolved. On admission had combination of
   elevated lactate and ARF though also non-gap component to this as well
   (possibly from ostomy output though does not report increase in this;
   now partly from IVF).  Received NaHCO3 on [**2-10**] and HCO3 is now improved
   & closer to her normal range.
   - Trend HCO3
   .
   9. Fibromyalgia causing generalized fatigue
   - Fentanyl patch for sustained relief
   - Fentanyl IV prn for breakthrough
   .
   10. Left thigh pain
 likely related to line change and patient states
   that she has had pain previously with line changes.
   - will trend
   .
   11. Lower Abdominal pain
 no evidence for intraabdominal abscess on CT
   scan.  Pain has been improving overall since admission.
   - cont. to trend.
   .
   FEN: IVF boluses; regular diet for pleasure; TPN started 3/21 per
   nutrition consult
   PPX: HSC; no need for PPI
   CODE: DNR/DNI, but will intubate for some procedures
   Dispo
 will c/o to floor today.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-2-12**] 05:52 PM 83.[**Telephone/Fax (5) 6137**] mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2146-2-9**] 08:23 PM
   22 Gauge - [**2146-2-11**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-13 09:58:00 Physician Attending Progress Note
Chief Complaint: Sepsis-Catheter Related
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT
   Pressors weaned to off
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   Nausea/Vomiting
   Iodine; Iodine Containing
   Hives; Nausea/V
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2146-2-12**] 11:55 AM
   Ceftriaxone - [**2146-2-12**] 06:12 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-2-12**] 09:58 PM
   Fentanyl - [**2146-2-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-13**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 87 (70 - 93) bpm
   BP: 86/49(57) {75/41(50) - 111/68(73)} mmHg
   RR: 15 (12 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,786 mL
                                                                    917 mL
   PO:
                                                                    160 mL
             TF:
   IVF:
                                                                    944 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                  1,800 mL
   Urine:
                                                                  1,050 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -64 mL
                                                                   -883 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///36/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   210 K/uL
   124 mg/dL
   0.4 mg/dL
   36 mEq/L
   3.2 mEq/L
   13 mg/dL
   102 mEq/L
   139 mEq/L
   25.0 %
   4.1 K/uL
        [image002.jpg]
                             [**2146-2-10**]  12:28 AM
                             [**2146-2-10**]  03:26 AM
                             [**2146-2-10**]  02:43 PM
                             [**2146-2-10**]  09:50 PM
                             [**2146-2-10**]  10:52 PM
                             [**2146-2-11**]  03:37 AM
                             [**2146-2-11**]  05:26 PM
                             [**2146-2-12**]  05:23 AM
                             [**2146-2-13**]  04:51 AM
   WBC
   17.6
   10.5
   8.4
   6.2
   5.1
   4.1
   Hct
   29.2
   26.2
   23.9
   24.3
   24.6
   23.0
   25.0
   Plt
   232
   191
   209
   [**Telephone/Fax (3) 8511**]
   210
   Cr
   0.9
   0.7
   0.6
   0.4
   0.4
   0.4
   TCO2
   17
   Glucose
   152
   177
   166
   115
   256
   124
   Other labs: PT / PTT / INR:12.8/39.7/1.1, CK / CKMB / Troponin-T:20//,
   ALT / AST:35/19, Alk Phos / T Bili:255/0.3, Amylase / Lipase:73/13,
   Differential-Neuts:86.6 %, Lymph:10.5 %, Mono:2.6 %, Eos:0.1 %,
   Fibrinogen:354 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:167
   IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Microbiology: Klebsiella
   No positive cultures since [**2-10**]
   Tip--negative
   Assessment and Plan
   47 yo female with chronic TPN and now admitted with catheter related
   sepsis and with improved hemodynamics and suggestion of resolution of
   bactermia in the setting of antibiotics and catheter change.
   1)Sepsis-
   -CTX to continue
   -Have discussed possible imaging further but in setting of negative
   blood cultures and clinical improvement will defer at this time but
   will have to clarify therapeutic implications of any potential findings
   before final decisions.  CT scan unlikely to be helpful and TEE would
   require intubation and would therefore defer further imaging at this
   time.
   2)Nutrition-
   -TPN to continue
   3) PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)-
   -PRN and fentanyl patch
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-2-12**] 05:52 PM 83.[**Telephone/Fax (5) 6137**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2146-2-9**] 08:23 PM
   22 Gauge - [**2146-2-11**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 34 minutes